US06153272
A 4 g (16.53 mmol) amount of 4-amino-4'-nitroazobenzene (Disperse Orange 3) was dissolved in ice-cooled acetic acid (100 mL) containing 8 mL of 98% sulfuriic acid. Sodium nitrite (1.48 g, 21.40 mmol) dissolved in a small amount of water (less than 2 mL) was added dropwise to the stirred solution. The reaction temperature was maintained at 5° C. After 6 h of stirring, 3,5-dimethylaniline (5.0 g, 41.30 mmol) in 10 mL of acetic acid was added followed by slow addition of sodium acetate (4.10 g, 50.0 mmol). The resulting red solution was stirred at 5° C. for an additional 16 h. A 10% sodium hydroxide solution was slowly added to neutralize the reaction mixture. The precipitates formed were collected by filtration, washed with water several times, dissolved in THF, and dried over magnesium sulfate. Solvent was evaporated, and a dark red powder was obtained by precipitation in n-hexane. The solid was further purified by column chromatography (silica gel; THF: n-hexane=4 6), affording 3.51 g (61%) of 4-[4'-(4"-nitrophenylazo)phenylazo]-3,5-dimethylaniline as a dark red solid product.

reactant | 4-amino-4'-nitroazobenzene | NC1=CC=C(C=C1)N=NC1=CC=C(C=C1)[N+](=O)[O-] | C12H10N4O2
reactant | Sodium nitrite | 21.40 mmol, 1.48 g | N(=O)[O-].[Na+]
reactant | 3,5-dimethylaniline | 41.30 mmol, 5.0 g | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | sodium acetate | 50.0 mmol, 4.10 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | less than 2 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-[4'-(4"-nitrophenylazo)phenylazo]-3,5-dimethylaniline | 3.51 g, 61% | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C=C1)N=NC1=C(C=C(N)C=C1C)C | C20H18N6O2
